US06114390
c) (R)-N-[[4-[2-(Aminocarbonyl)ethyl]phenyl]methyl]-N5 -[amino(nitroimino)methyl]-N2 -(diphenylacetyl)-ornithinamide
Prepared analogously to Example 4b) from (R)-N5 -[amino[nitroimino)methyl]-N2 -(diphenylacetyl)-ornithine, 4-[2-(aminocarbonyl)ethyl]benzenemethanamine and TBTU in a yield of 60% of theory. Colourless crystals, Mp. 139-140° C. (Acetonitrile).

reactant | (R)-N5 -[amino[nitroimino)methyl]-N2 -(diphenylacetyl)-ornithine | NC(NCCC[C@@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O)=N[N+](=O)[O-] | C20H23N5O5
reactant | 4-[2-(aminocarbonyl)ethyl]benzenemethanamine | NC(=O)CCC1=CC=C(C=C1)CN | C10H14N2O
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | Acetonitrile | C(C)#N | C2H3N
product | (R)-N-[[4-[2-(Aminocarbonyl)ethyl]phenyl]methyl]-N5 -[amino(nitroimino)methyl]-N2 -(diphenylacetyl)-ornithinamide | yield of 60% | NC(=O)CCC1=CC=C(C=C1)CNC([C@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CCCNC(=N[N+](=O)[O-])N)=O | C30H35N7O5
